US08283353B2
3′-fluoro-4′-({4-[cis-3-(2-hydroxy-2-methylpropoxy)cyclobutyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
To a solution of ethyl [(cis-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]acetate (895 mg) in tetrahydrofuran (8 mL) was added 1 M methylmagnesium bromide-tetrahydrofuran solution (8 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with saturated aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=65/35→40/60 (volume ratio)] to give the title compound as a colorless amorphous compound (606 mg, 70%).

reactant | ethyl [(cis-3-{6-[(2′-cyano-3-fluorobiphenyl-4-yl)methyl]-2-methyl-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclobutyl)oxy]acetate | 895 mg | C(#N)C1=C(C=CC=C1)C1=CC(=C(C=C1)CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@H]2C[C@H](C2)OCC(=O)OCC)=O)F | C31H32FN5O4
reactant | methylmagnesium bromide tetrahydrofuran | 1 M, 8 mL | C[Mg]Br.O1CCCC1
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 3′-fluoro-4′-({4-[cis-3-(2-hydroxy-2-methylpropoxy)cyclobutyl]-2-methyl-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=C(N2)C)[C@@H]2C[C@@H](C2)OCC(C)(C)O)=O)C=2C(=CC=CC2)C#N | C31H34FN5O3
